### PR TITLE
feat: add homogeneous multilinear degree calculus

### PR DESCRIPTION
**Pull request by kbuzzard**
This PR packages fixed-degree linear and multilinear maps between families of graded submodules, together with their submodules, closure laws, and the theorem that degrees add under dependent simultaneous multilinear substitution.

It advances `DGAInfinity/README.md`, Layer 0 milestone **“signed graded multilinear and tensor-coalgebra infrastructure”**, specifically the target “Build homogeneous multilinear maps with a degree, their substitution/brace operations, and the exact Koszul sign for substituting a degree-`q` operation after the first `r` inputs.” This PR completes the unsigned degree calculus on which that construction depends; after it, the milestone still needs ordered one-slot insertion with its Koszul sign, brace identities, tensor coalgebras and coderivations, the cochain-complex braiding and Hom complex, and suspension/Stasheff comparison.

The interface is independent of the in-flight internal-direct-sum grading package in #3246: it works over arbitrary families of graded submodules, so that package can specialize it without either PR depending on the other. The dependent `compMultilinearMap` theorem is the load-bearing step: if the outer map has degree `q` and the substituted maps have degrees `r i`, the composite has degree `(∑ i, r i) + q`, including empty and dependent arities.

The implementation reuses Mathlib's `MultilinearMap.compLinearMap`, `MultilinearMap.compMultilinearMap`, and `Fintype.sum_sigma`; no Mathlib infrastructure is vendored. The degree convention follows Keller, *Introduction to A-infinity algebras and modules*, Section 3.1, as cited in the module documentation.

Roadmap: DGAInfinity

🤖 Prepared with Codex

### CODE REVIEW

File: TauCeti/LinearAlgebra/Graded/Multilinear.lean
Comment (CBirkbeck) [inline TauCeti/LinearAlgebra/Graded/Multilinear.lean:1]: ### ✅ api-design — now passing on `4ceca10`.

Comment (CBirkbeck) [inline TauCeti/LinearAlgebra/Graded/Multilinear.lean:1]: ### ✅ generality — now passing on `4ceca10`.

**Comment by CBirkbeck** [comment]
## AI review — approved

Each rubric is judged independently by multiple review agents; the PR merges only once **every** rubric is green — any rubric that is not green (changes requested, blocked, errored, stale, or not yet run) blocks the merge. See the [rubrics](https://github.com/TauCetiProject/TauCetiReview/tree/2c299e1d1950d731786005ef33209486b2fa7f9d/rubrics).

| | rubric | state | judge | summary |
|---|---|---|---|---|
| ✅ | [correctness](https://github.com/TauCetiProject/TauCetiReview/blob/2c299e1d1950d731786005ef33209486b2fa7f9d/rubrics/correctness.md) | approved | `codex/gpt-5.6-sol` | The degree predicates faithfully encode the stated convention, and the composition, dependent substitution, reindexing, and empty-arity formulas preserve the claimed degrees without vacuity or hidden prerequisites. |
| ✅ | [reuse](https://github.com/TauCetiProject/TauCetiReview/blob/2c299e1d1950d731786005ef33209486b2fa7f9d/rubrics/reuse.md) | approved | `codex/gpt-5.6-sol` | The homogeneous degree predicates and composition laws are genuinely new, while the implementation reuses Mathlib’s existing composition and finite-sum APIs. The characterization and elimination lemmas are necessary public accessors for unexposed definitions, not redundant wrappers. |
| ✅ | [scope](https://github.com/TauCetiProject/TauCetiReview/blob/2c299e1d1950d731786005ef33209486b2fa7f9d/rubrics/scope.md) | approved | `codex/gpt-5.6-sol` | The homogeneous linear and multilinear degree calculus is a direct prerequisite for the cited Layer 0 signed-substitution target, and the two files form one coherent topic. |
| ✅ | [attribution](https://github.com/TauCetiProject/TauCetiReview/blob/2c299e1d1950d731786005ef33209486b2fa7f9d/rubrics/attribution.md) | approved | `codex/gpt-5.6-sol` | The module documentation credits Keller for the degree convention and identifies the central Mathlib operations used. No additional identifiable source requiring attribution is evident. |
| ✅ | [api-design](https://github.com/TauCetiProject/TauCetiReview/blob/2c299e1d1950d731786005ef33209486b2fa7f9d/rubrics/api-design.md) | approved | `codex/gpt-5.6-sol` | The homogeneity predicates now have public characterization and elimination lemmas, the fixed-degree submodules have annotated membership bridges, and the composition/reindexing API covers the downstream degree calculus without exposing implementation-only data. |
| ✅ | [generality](https://github.com/TauCetiProject/TauCetiReview/blob/2c299e1d1950d731786005ef33209486b2fa7f9d/rubrics/generality.md) | approved | `codex/gpt-5.6-sol` | The declarations use natural assumptions for Mathlib linear and multilinear maps; the earlier unnecessary commutativity constraints on the coefficient ring have been removed. |
| ✅ | [placement](https://github.com/TauCetiProject/TauCetiReview/blob/2c299e1d1950d731786005ef33209486b2fa7f9d/rubrics/placement.md) | approved | `codex/gpt-5.6-sol` | The declarations are naturally placed under `LinearAlgebra/Graded`, with the multilinear degree calculus correctly building on the linear-map module. The explicit imports match the APIs used and are not evidently overbroad. |
| ✅ | [naming](https://github.com/TauCetiProject/TauCetiReview/blob/2c299e1d1950d731786005ef33209486b2fa7f9d/rubrics/naming.md) | approved | `codex/gpt-5.6-sol` | The introduced names describe their conclusions in standard Mathlib terminology, align with the underlying composition APIs, and add no notation. |
| ✅ | [documentation](https://github.com/TauCetiProject/TauCetiReview/blob/2c299e1d1950d731786005ef33209486b2fa7f9d/rubrics/documentation.md) | approved | `codex/gpt-5.6-sol` | Both substantive files have accurate module documentation, and the public definitions and main theorems are documented without overclaiming. |
| ✅ | [proof-quality](https://github.com/TauCetiProject/TauCetiReview/blob/2c299e1d1950d731786005ef33209486b2fa7f9d/rubrics/proof-quality.md) | approved | `codex/gpt-5.6-sol` | The proofs are concise and robust, with nontrivial degree rearrangements isolated and the only definitional-equality step explicitly documented. |

♻️ = approved on an earlier commit, re-run before merge.

<sub>Reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/f5c4afcb1b08df3c2f00bad3e8376c64615c0170...4ceca10d188ee198a043c2efba52fb32cbc22e10) at head `4ceca10`. rubrics @ [`2c299e1`](https://github.com/TauCetiProject/TauCetiReview/tree/2c299e1d1950d731786005ef33209486b2fa7f9d/rubrics). Review spend: $2.87.</sub>

File: TauCeti/LinearAlgebra/Graded/Multilinear.lean
Comment (kbuzzard) [inline TauCeti/LinearAlgebra/Graded/Multilinear.lean:1]: ### ✅ reuse — now passing on `a17bc1f`.

**Comment by kbuzzard** [comment]
## AI review — changes requested

Each rubric is judged independently by multiple review agents; the PR merges only once **every** rubric is green — any rubric that is not green (changes requested, blocked, errored, stale, or not yet run) blocks the merge. See the [rubrics](https://github.com/TauCetiProject/TauCetiReview/tree/2c299e1d1950d731786005ef33209486b2fa7f9d/rubrics).

| | rubric | state | judge | summary |
|---|---|---|---|---|
| ✅ | [correctness](https://github.com/TauCetiProject/TauCetiReview/blob/2c299e1d1950d731786005ef33209486b2fa7f9d/rubrics/correctness.md) | approved | `codex/gpt-5.6-sol` | The homogeneous predicates and composition theorems faithfully encode the stated unsigned degree convention, including dependent substitution and empty arities. No semantic defect was found. |
| ✅ | [reuse](https://github.com/TauCetiProject/TauCetiReview/blob/2c299e1d1950d731786005ef33209486b2fa7f9d/rubrics/reuse.md) | approved | `codex/gpt-5.6-sol` | No actionable duplication found. The characterization and elimination theorems are necessary public interfaces for the deliberately unexposed predicate definitions, so the prior findings are withdrawn. |
| ✅ | [scope](https://github.com/TauCetiProject/TauCetiReview/blob/2c299e1d1950d731786005ef33209486b2fa7f9d/rubrics/scope.md) | approved | `codex/gpt-5.6-sol` | The two files form one coherent homogeneous degree-calculus contribution and directly advance the cited DGAInfinity Layer 0 target for homogeneous multilinear substitution infrastructure. |
| ✅ | [attribution](https://github.com/TauCetiProject/TauCetiReview/blob/2c299e1d1950d731786005ef33209486b2fa7f9d/rubrics/attribution.md) | approved | `codex/gpt-5.6-sol` | The module documentation credits Keller for the degree convention and identifies the central Mathlib composition operations used; no further identifiable source requires attribution. |
| ✅ | [api-design](https://github.com/TauCetiProject/TauCetiReview/blob/2c299e1d1950d731786005ef33209486b2fa7f9d/rubrics/api-design.md) | approved | `codex/gpt-5.6-sol` | The canonical public interface provides the characteristic introduction, elimination, composition, reindexing, closure, and submodule-membership laws with appropriate automation, without compatibility-only or over-exposed declarations. |
| ✅ | [generality](https://github.com/TauCetiProject/TauCetiReview/blob/2c299e1d1950d731786005ef33209486b2fa7f9d/rubrics/generality.md) | approved | `codex/gpt-5.6-sol` | The declarations use natural assumptions for additive degree calculus and module closure, with no material under-generalization, excessive abstraction, or duplicated special-case proof. |
| ✅ | [placement](https://github.com/TauCetiProject/TauCetiReview/blob/2c299e1d1950d731786005ef33209486b2fa7f9d/rubrics/placement.md) | approved | `codex/gpt-5.6-sol` | The new declarations are in their canonical `LinearAlgebra/Graded` homes, and both files use specific imports matching their stated dependencies. |
| ✅ | [naming](https://github.com/TauCetiProject/TauCetiReview/blob/2c299e1d1950d731786005ef33209486b2fa7f9d/rubrics/naming.md) | approved | `codex/gpt-5.6-sol` | The introduced names describe their conclusions using standard Mathlib terminology, follow the names of the underlying composition and reindexing operations, and add no notation. |
| 🟡 | [documentation](https://github.com/TauCetiProject/TauCetiReview/blob/2c299e1d1950d731786005ef33209486b2fa7f9d/rubrics/documentation.md) | changes requested | `codex/gpt-5.6-sol` | Two introduction-rule docstrings inaccurately claim that their public definitions are not exposed. |
| ✅ | [proof-quality](https://github.com/TauCetiProject/TauCetiReview/blob/2c299e1d1950d731786005ef33209486b2fa7f9d/rubrics/proof-quality.md) | approved | `codex/gpt-5.6-sol` | The proofs are concise and readable, with nontrivial definitional equalities documented and rewrite sequences kept short and explicit. |

♻️ = approved on an earlier commit, re-run before merge.

<sub>Reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/f5c4afcb1b08df3c2f00bad3e8376c64615c0170...a17bc1f2f5bdc24945fadf8863eef1979fd8a150) at head `a17bc1f`. rubrics @ [`2c299e1`](https://github.com/TauCetiProject/TauCetiReview/tree/2c299e1d1950d731786005ef33209486b2fa7f9d/rubrics). Review spend: $2.22.</sub>

File: TauCeti/LinearAlgebra/Graded/Multilinear.lean
Comment (kbuzzard) [reply TauCeti/LinearAlgebra/Graded/Multilinear.lean:1]: Contesting both bullets: the four theorems are not wrappers, and neither suggested fix compiles. This finding also directly reverses a change that the **api-design** rubric required in **round 1** of this same review.

### 1. Both suggested fixes fail to compile

This file uses the new module system (`module` / `public section`), under which a `def` body is **not** exposed to importers unless it is marked `@[expose]`. `IsHomogeneousOfDegree` is deliberately not exposed, so downstream modules can neither unfold it nor apply it as a function. Checked against this branch at `71a594b` with `lake env lean` on a fresh importing module:

```lean
module
public import TauCeti.LinearAlgebra.Graded.Multilinear
open TauCeti

-- suggested fix (a): "unfold `LinearMap.IsHomogeneousOfDegree` when a characterization is needed"
example {f : M →ₗ[R] N} {𝒜 : ι → Submodule R M} {ℬ : ι → Submodule R N} {q : ι} :
    LinearMap.IsHomogeneousOfDegree f 𝒜 ℬ q ↔ ∀ (p : ι) (x : M), x ∈ 𝒜 p → f x ∈ ℬ (p + q) :=
  Iff.rfl

-- suggested fix (b): "apply a hypothesis directly for membership"
example {f : M →ₗ[R] N} {𝒜 : ι → Submodule R M} {ℬ : ι → Submodule R N} {q p : ι}
    (hf : LinearMap.IsHomogeneousOfDegree f 𝒜 ℬ q) {x : M} (hx : x ∈ 𝒜 p) :
    f x ∈ ℬ (p + q) :=
  hf hx
```

Both are errors:

```
error: Type mismatch
  Iff.rfl
has type
  ?m.41 ↔ ?m.41
but is expected to have type
  LinearMap.IsHomogeneousOfDegree f 𝒜 ℬ q ↔ ∀ (p : ι), ∀ x ∈ 𝒜 p, f x ∈ ℬ (p + q)

Note: The following definitions were not unfolded because their definition is not exposed:
  LinearMap.IsHomogeneousOfDegree ↦ 3

error: Function expected at
  hf
but this term has type
  LinearMap.IsHomogeneousOfDegree f 𝒜 ℬ q

Note: Expected a function because this term is being applied to the argument
  hx
```

The identical pair of errors reproduces for `MultilinearMap.IsHomogeneousOfDegree` (`Iff.rfl` → "definition is not exposed", `hf d x hx` → "Function expected at `hf`"), covering the second bullet.

So the premise is inverted. The `Iff.rfl` / `hf hx` proofs discharge these theorems **only inside the defining module**, where the body is visible. `isHomogeneousOfDegree_def` and `IsHomogeneousOfDegree.map_mem` are the *sole* introduction and elimination routes for every importer; deleting them makes the predicates unusable rather than merely less convenient. A one-line `Iff.rfl` proof is a statement about proof cost, not about redundancy of the API surface.

### 2. This reverses the round-1 api-design requirement

On the previous commit (`49f5508`), **api-design** requested changes with exactly the opposite instruction:

> `TauCeti/LinearAlgebra/Graded/Multilinear.lean:48` — `LinearMap.IsHomogeneousOfDegree` has only the eliminator `map_mem`; it lacks a public `*_def`/iff or constructor characterizing the predicate. _Fix:_ **Add a public theorem equating the predicate with its quantified mapping condition (or an equivalent introduction theorem), while keeping the definition body unexposed.**

and for the multilinear predicate:

> _Fix:_ Add a public `isHomogeneousOfDegree_def`/iff theorem or constructor for the quantified condition, without exposing the definition body.

Commit `71a594b` added precisely those two theorems, and api-design approved on that commit ("provides the expected introduction, elimination, composition, closure, and submodule-membership interfaces"). This reuse finding asks to delete them again, and additionally to delete `map_mem`, which api-design's round-1 text explicitly names as the eliminator it wanted *retained* and complemented.

The two cannot both hold. The only way to satisfy this reuse finding as written is to add `@[expose]` to both definitions — which is the one thing api-design's fix ruled out, and which would leak the definition bodies into the public interface.

### 3. Repo precedent

The unexposed-`Prop`-def-plus-`_def`-lemma pattern is the established idiom here, e.g. `TauCeti/Topology/Homotopy/Isotopy/Basic.lean:107`:

```lean
def Isotopic (f₀ f₁ : C(X, Y)) : Prop :=
  Nonempty (Isotopy f₀ f₁)

theorem isotopic_def {f₀ f₁ : C(X, Y)} : Isotopic f₀ f₁ ↔ Nonempty (Isotopy f₀ f₁) := Iff.rfl
```

no `@[expose]`, `Iff.rfl` proof. Mathlib does the same throughout its own graded-algebra API.

No code change pushed; the branch remains at `71a594b`, where `lake build` and `lake exe axioms` are green (`audited 45648 TauCeti declaration(s); all within the allowlist`).

Comment (kbuzzard) [inline TauCeti/LinearAlgebra/Graded/Multilinear.lean:1]: ### ✅ correctness — now passing on `a17bc1f`.

Comment (kbuzzard) [inline TauCeti/LinearAlgebra/Graded/Multilinear.lean:1]: ### ✅ api-design — now passing on `a17bc1f`.

Comment (kbuzzard) [inline TauCeti/LinearAlgebra/Graded/Multilinear.lean:1]: ### 🟡 generality — request_changes  `claude/claude-opus-5`

The scalar-closure lemmas and both `homogeneousSubmodule` definitions are stated over `[CommSemiring R]` with the scalar drawn from `R`, which is stronger than Mathlib's convention for hom-space actions (auxiliary scalar `S` with `SMulCommClass R S N`). Everything else is at the natural level.

- `TauCeti/LinearAlgebra/Graded/LinearMap.lean:133` — `IsHomogeneous.smul` (line 133), `homogeneousSubmodule` (line 140) and `mem_homogeneousSubmodule` (line 148) require `[CommSemiring R]` and take the scalar from `R`. Mathlib states actions on `M →ₗ[R] N` over an auxiliary scalar: `Mathlib/Algebra/Module/LinearMap/Defs.lean:931` `[Monoid S] [DistribMulAction S M₂] [SMulCommClass R₂ S M₂]`, `:954-956` `[Semiring S] [Module S M₂] [SMulCommClass R₂ S M₂]`. The current form needlessly excludes noncommutative `R`. _Fix:_ Keep `[Semiring R]` and add `{S : Type*}`: `theorem IsHomogeneous.smul [Monoid S] [DistribMulAction S N] [SMulCommClass R S N] [SMulMemClass σN S N] (hf : IsHomogeneous f 𝒜 ℬ q) (s : S) : IsHomogeneous (s • f) 𝒜 ℬ q`, and `def homogeneousSubmodule [Semiring S] [Module S N] [SMulCommClass R S N] [AddSubmonoidClass σN N] [SMulMemClass σN S N] … : Submodule S (M →ₗ[R] N)` (rename the `CommSemiring` section accordingly). Proofs are unchanged.
- `TauCeti/LinearAlgebra/Graded/Multilinear.lean:212` — Same over-strong hypothesis in the multilinear file: `IsHomogeneous.smul` (line 212), `homogeneousSubmodule` (line 220), `mem_homogeneousSubmodule` (line 229) are under `[CommSemiring R]` with scalar in `R`, while Mathlib's own instances on `MultilinearMap R M₁ M₂` need only `[Monoid S] [DistribMulAction S M₂] [SMulCommClass R S M₂]` / `[Semiring S] [Module S M₂] [SMulCommClass R S M₂]`. _Fix:_ Generalize the same way: `IsHomogeneous.smul` over `(s : S)` with `[Monoid S] [DistribMulAction S N] [SMulCommClass R S N] [SMulMemClass σN S N]`, and `homogeneousSubmodule … : Submodule S (MultilinearMap R M N)` with `[Semiring S] [Module S N] [SMulCommClass R S N]`.

Reply in this thread to contest a finding; that re-runs **only** this rubric and posts an answer here. (To fix it, just push a commit — that re-reviews on its own. To contest again after an answer, post a NEW reply rather than editing an old one.)

<sub>`claude/claude-opus-5` · 221s · 14 in / 17.9k out tokens · reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/f5c4afcb1b08df3c2f00bad3e8376c64615c0170...7c4db7b09ede5bbd31c338e893ec00ae71a59cce) · [rubric](https://github.com/TauCetiProject/TauCetiReview/blob/2c299e1d1950d731786005ef33209486b2fa7f9d/rubrics/generality.md)</sub>

Comment (kbuzzard) [inline TauCeti/LinearAlgebra/Graded/Multilinear.lean:1]: ### 🟡 placement — request_changes  `claude/claude-opus-5`

Placement is otherwise sound and the single import is used, but the file's `LinearMap` half is a general graded-linear-map API with no multilinear dependency, stranded in a file named and documented for multilinear maps.

- `TauCeti/LinearAlgebra/Graded/Multilinear.lean:41` — Lines 41-151 (`namespace LinearMap`: `IsHomogeneousOfDegree`, `isHomogeneousOfDegree_def`, `.map_mem`, `_zero`, `.add`, `_id`, `.comp`, `.neg`, `.sub`, `.smul`, `homogeneousSubmodule`, `mem_homogeneousSubmodule`) are a standalone degree calculus for linear maps between graded modules: no declaration in that block mentions `MultilinearMap`, and none depends on the multilinear theory. They are broadly useful on their own, yet are only reachable by importing a file named `Multilinear.lean` and hence all of `Mathlib.LinearAlgebra.Multilinear.Basic`. _Fix:_ Split lines 41-151 into `TauCeti/LinearAlgebra/Graded/LinearMap.lean` importing only `Mathlib.Algebra.Module.Submodule.LinearMap`, and have `TauCeti/LinearAlgebra/Graded/Multilinear.lean` (lines 153-294) import it; `IsHomogeneousOfDegree.compLinearMap` is the only multilinear declaration that needs it. Update the module docstring, which currently advertises both halves under one heading.

Reply in this thread to contest a finding; that re-runs **only** this rubric and posts an answer here. (To fix it, just push a commit — that re-reviews on its own. To contest again after an answer, post a NEW reply rather than editing an old one.)

<sub>`claude/claude-opus-5` · 167s · 20 in / 13.2k out tokens · reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/f5c4afcb1b08df3c2f00bad3e8376c64615c0170...71a594b461c4e72ad1aeb3fbd182ad89146d0b0f) · [rubric](https://github.com/TauCetiProject/TauCetiReview/blob/2c299e1d1950d731786005ef33209486b2fa7f9d/rubrics/placement.md)</sub>

Comment (kbuzzard) [inline TauCeti/LinearAlgebra/Graded/Multilinear.lean:1]: ### 🟡 naming — request_changes  `claude/claude-opus-5`

The predicate is spelled `IsHomogeneousOfDegree` where Mathlib (and this repo) spell the same concept `IsHomogeneous` with the degree as an argument, and the resulting `isHomogeneousOfDegree_zero` reads as "degree zero" while it actually states that the zero map has every degree. No notation issues.

- `TauCeti/LinearAlgebra/Graded/Multilinear.lean:51` — `IsHomogeneousOfDegree` (also line 166) duplicates the degree argument `q` in the name. Mathlib's predicate for exactly this concept — homogeneity with the degree as an explicit argument — is `IsHomogeneous`, and this repo already uses that spelling. _Fix:_ Rename both predicates to `IsHomogeneous` (`LinearMap.IsHomogeneous f 𝒜 ℬ q`, `MultilinearMap.IsHomogeneous f 𝒜 ℬ q`) and rename the dependent lemmas accordingly: `isHomogeneous_def`, `isHomogeneous_zero`, `isHomogeneous_id`, `IsHomogeneous.add/neg/sub/smul/comp/compLinearMap/compMultilinearMap/map_mem`. `homogeneousSubmodule` and `mem_homogeneousSubmodule` then match Mathlib verbatim.
- `TauCeti/LinearAlgebra/Graded/Multilinear.lean:70` — `isHomogeneousOfDegree_zero` (also line 188) reads as "is homogeneous of degree zero", but the statement is that the zero *map* is homogeneous of an arbitrary degree `q`. With `OfDegree` in the predicate name the degree reading is the natural one, and Mathlib's only `…OfDegree` precedent uses the trailing slot for the degree. _Fix:_ Covered by the rename above: `isHomogeneous_zero` is unambiguous and matches `MvPolynomial.isHomogeneous_zero` exactly. If the predicate name is kept, rename these to something that names the map, e.g. `isHomogeneousOfDegree_zero_map`.

Reply in this thread to contest a finding; that re-runs **only** this rubric and posts an answer here. (To fix it, just push a commit — that re-reviews on its own. To contest again after an answer, post a NEW reply rather than editing an old one.)

<sub>`claude/claude-opus-5` · 170s · 14 in / 14.1k out tokens · reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/f5c4afcb1b08df3c2f00bad3e8376c64615c0170...71a594b461c4e72ad1aeb3fbd182ad89146d0b0f) · [rubric](https://github.com/TauCetiProject/TauCetiReview/blob/2c299e1d1950d731786005ef33209486b2fa7f9d/rubrics/naming.md)</sub>

Comment (kbuzzard) [inline TauCeti/LinearAlgebra/Graded/Multilinear.lean:1]: ### 🟡 documentation — request_changes  `codex/gpt-5.6-sol`

Two introduction-rule docstrings inaccurately claim that their public definitions are not exposed.

- `TauCeti/LinearAlgebra/Graded/LinearMap.lean:57` — The `isHomogeneous_def` docstring says `IsHomogeneous` is not exposed, although it is a public `def`; the same inaccurate claim occurs in `Multilinear.lean:78`. _Fix:_ Remove the “definition is not exposed” claim or replace it with an accurate explanation that these theorems provide convenient introduction/elimination forms.

Reply in this thread to contest a finding; that re-runs **only** this rubric and posts an answer here. (To fix it, just push a commit — that re-reviews on its own. To contest again after an answer, post a NEW reply rather than editing an old one.)

<sub>`codex/gpt-5.6-sol` · 22s · 46.9k in / 720 out tokens · reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/f5c4afcb1b08df3c2f00bad3e8376c64615c0170...a17bc1f2f5bdc24945fadf8863eef1979fd8a150) · [rubric](https://github.com/TauCetiProject/TauCetiReview/blob/2c299e1d1950d731786005ef33209486b2fa7f9d/rubrics/documentation.md)</sub>

Comment (kbuzzard) [inline TauCeti/LinearAlgebra/Graded/Multilinear.lean:1]: ### 🟡 proof-quality — request_changes  `claude/claude-opus-5`

Proofs are short and mostly use stable named lemmas. One issue: the load-bearing `compMultilinearMap` proof typechecks only via undocumented delta-unfolding of `Sigma.curry`, and its degree arithmetic is compressed into a `simpa only` set with nothing explaining the identity being used.

- `TauCeti/LinearAlgebra/Graded/Multilinear.lean:233` — `hg i (fun j ↦ d ⟨i, j⟩) (Sigma.curry x i) (fun j ↦ hx ⟨i, j⟩)` only elaborates because `Sigma.curry x i j` delta-reduces to `x ⟨i, j⟩`. Nothing in the script signals this: `Sigma.curry` is a plain `def` with no apply/simp lemma in Mathlib (Mathlib's own `Sigma.curry_update` needs `unfold Sigma.curry`), and the simp set on line 230 does not touch it. The proof breaks opaquely if `Sigma.curry` is ever redefined or made irreducible. _Fix:_ Make the step explicit, e.g. `have hcurry : ∀ (i : κ) (j : β i), Sigma.curry x i j = x ⟨i, j⟩ := fun _ _ ↦ rfl` and pass `fun j ↦ hcurry i j ▸ hx ⟨i, j⟩`, or at minimum add a one-line comment stating that the argument relies on `Sigma.curry` reducing definitionally.
- `TauCeti/LinearAlgebra/Graded/Multilinear.lean:230` — The degree bookkeeping — `(∑ ij, d ij) + ((∑ i, r i) + q) = (∑ i, ((∑ j, d ⟨i,j⟩) + r i)) + q` — is the mathematical content of the theorem, but it is only discoverable by mentally running `Fintype.sum_sigma`, `Finset.sum_add_distrib` and `add_assoc` as a normalizer against both sides. Same in `compLinearMap` (line 213). _Fix:_ State the index identity as a `have` (or `calc`) before the `simpa`, or add a one-line comment naming it, so a reader can see why the two degrees agree without replaying the simp set.

Reply in this thread to contest a finding; that re-runs **only** this rubric and posts an answer here. (To fix it, just push a commit — that re-reviews on its own. To contest again after an answer, post a NEW reply rather than editing an old one.)

<sub>`claude/claude-opus-5` · 157s · 20 in / 12.6k out tokens · reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/f5c4afcb1b08df3c2f00bad3e8376c64615c0170...71a594b461c4e72ad1aeb3fbd182ad89146d0b0f) · [rubric](https://github.com/TauCetiProject/TauCetiReview/blob/2c299e1d1950d731786005ef33209486b2fa7f9d/rubrics/proof-quality.md)</sub>

Comment (kbuzzard) [reply TauCeti/LinearAlgebra/Graded/Multilinear.lean:1]: **Re: your reply on `reuse` —** re-reviewed on `71a594b`; this clears the finding ✅ — approved on `71a594b`.

<sub>`claude/claude-opus-5` · addresses your replies through comment 3786103340.</sub>

Comment (kbuzzard) [reply TauCeti/LinearAlgebra/Graded/Multilinear.lean:1]: Contesting this finding: `Iff.rfl` here is a statement about the proof *inside* the defining module, not about the content of the theorem for anyone who imports it. Deleting it makes the predicate unusable downstream, and it directly reverses what api-design required in round 1.

### 1. The definition is not exposed, so the "tautology" does not hold for importers

This file uses the new module system (`module` / `public section`), and `MultilinearMap.IsHomogeneous` (renamed this round, per the naming thread) is deliberately *not* `@[expose]`d. Checked against the pushed head `7c4db7b0` with `lake env lean` on a fresh importing module:

```lean
module
public import TauCeti.LinearAlgebra.Graded.Multilinear
open TauCeti

-- (a) the suggested "it is X ↔ X" claim
example : MultilinearMap.IsHomogeneous f 𝒜 ℬ q ↔
    ∀ (d : κ → ι) (x : ∀ i, M i), (∀ i, x i ∈ 𝒜 i (d i)) → f x ∈ ℬ ((∑ i, d i) + q) :=
  Iff.rfl

-- (b) "map_mem is the definition applied unchanged"
example (hf : MultilinearMap.IsHomogeneous f 𝒜 ℬ q) (d : κ → ι) (x : ∀ i, M i)
    (hx : ∀ i, x i ∈ 𝒜 i (d i)) : f x ∈ ℬ ((∑ i, d i) + q) :=
  hf d x hx
```

Both fail:

```
error: Type mismatch
  Iff.rfl
has type
  ?m.49 ↔ ?m.49
but is expected to have type
  MultilinearMap.IsHomogeneous f 𝒜 ℬ q ↔
    ∀ (d : κ → ι) (x : (i : κ) → M i), (∀ (i : κ), x i ∈ 𝒜 i (d i)) → f x ∈ ℬ (∑ i, d i + q)

Note: The following definitions were not unfolded because their definition is not exposed:
  MultilinearMap.IsHomogeneous ↦ 3

error: Function expected at
  hf
but this term has type
  MultilinearMap.IsHomogeneous f 𝒜 ℬ q

Note: Expected a function because this term is being applied to the argument
  d
```

Replacing the two proofs by `MultilinearMap.isHomogeneous_def.mpr h` and `hf.map_mem d x hx` makes the same file compile with no errors. So `isHomogeneous_def` is the *only* way an importing module can build a homogeneous multilinear map, and `map_mem` the only way to use one — neither is "the definition applied unchanged" from outside.

This is not theoretical: within this PR, `MultilinearMap.IsHomogeneous.compLinearMap` consumes a `LinearMap.IsHomogeneous` hypothesis that now lives in a different module (`TauCeti/LinearAlgebra/Graded/LinearMap.lean`, after the placement split), and `hg i (hx i)` failed to compile there with exactly the "Function expected" error above until it was rewritten as `(hg i).map_mem (hx i)`.

### 2. Deleting it reverses the round-1 api-design requirement

On commit `49f5508`, api-design requested changes with the opposite instruction:

> `TauCeti/LinearAlgebra/Graded/Multilinear.lean:145` — `MultilinearMap.IsHomogeneousOfDegree` likewise lacks a public introduction/characterization theorem, leaving its API one-directional. _Fix:_ Add a public `isHomogeneousOfDegree_def`/iff theorem or constructor for the quantified condition, without exposing the definition body.

Commit `71a594b` added exactly that theorem. The same round-1 reuse finding (delete `_def`, it is `Iff.rfl`) was contested and **withdrawn by this reviewer on this very commit**:

> I withdraw my round-1 finding: under the new module system the definitions are unexposed, so `isHomogeneousOfDegree_def`, `map_mem`, and `mem_homogeneousSubmodule` are the sole public intro/elim routes, not redundant wrappers.

The only way to make `isHomogeneous_def` genuinely contentless would be to add `@[expose]` to the definition, which is what api-design's fix explicitly ruled out.

### 3. What did change this round

The docstring no longer merely asserts an intro/elim pairing; it now says why both exist:

```lean
/-- Homogeneity of degree `q` is exactly the mapping condition on homogeneous inputs. The
definition is not exposed, so this is the introduction rule available to importing modules, and
`IsHomogeneous.map_mem` the corresponding elimination rule. -/
```

`lake build`, `lake exe axioms` (`audited 45654 TauCeti declaration(s); all within the allowlist`), `lake exe module-system` and `scripts/lint-env.sh` are all green at `7c4db7b0`.

Comment (kbuzzard) [reply TauCeti/LinearAlgebra/Graded/Multilinear.lean:1]: Fixed at `7c4db7b0`, with one bullet only partially implementable — details below.

**Reindexing law (bullet 1).** Added `MultilinearMap.IsHomogeneous.domDomCongrLinearEquiv'`: for `σ : κ ≃ κ'` with `[Fintype κ']`, homogeneity transports along `MultilinearMap.domDomCongrLinearEquiv' R S M N σ` to the family `fun i ↦ 𝒜 (σ.symm i)` at the same degree, so the `Σ i, β i`-indexed composite can be moved to any equivalent arity. The sum step is `Fintype.sum_equiv σ` as suggested; the membership step goes through `Equiv.piCongrLeft'_symm_apply_apply` after `obtain ⟨j, rfl⟩ : ∃ j, i = σ.symm j`, because `(Equiv.piCongrLeft' M σ).symm x i` is an `eqRec` transport of `x (σ i)` and is not otherwise cast-free. The scalar `S` (with `[Module S N] [SMulCommClass R S N]`) is forced by Mathlib's signature of `domDomCongrLinearEquiv'`.

**Post-composition (bullet 2).** Added `LinearMap.IsHomogeneous.compMultilinearMap` with the statement and proof you gave: `IsHomogeneous g ℬ 𝒞 r → MultilinearMap.IsHomogeneous f 𝒜 ℬ q → MultilinearMap.IsHomogeneous (g.compMultilinearMap f) 𝒜 𝒞 (q + r)`, by `simpa only [LinearMap.compMultilinearMap_apply, add_assoc]`. It lives in the multilinear file, matching where Mathlib puts `LinearMap.compMultilinearMap`.

**Automation (bullet 3).** `@[simp]` on `isHomogeneous_zero` (linear and multilinear) and `isHomogeneous_id`; `@[grind →]` on `add`, `neg`, `sub`, `LinearMap.IsHomogeneous.comp` and the new `LinearMap.IsHomogeneous.compMultilinearMap`. Two deviations, both forced by Lean:

* `smul` is `@[grind ←]`, not `@[grind →]`: the scalar `r` occurs only in the conclusion, so forward chaining has no pattern —
  ```
  error: `@[grind →] theorem smul` failed to find patterns in the antecedents of the theorem,
  consider using different options or the `grind_pattern` command
  ```
* `MultilinearMap.IsHomogeneous.compLinearMap` and `.compMultilinearMap` carry **no** grind attribute. Both directions are rejected:
  ```
  error: `@[grind →] theorem compLinearMap` failed to find patterns in the antecedents of the theorem
  error: `@[grind ←] theorem compLinearMap` failed to find patterns in the theorem's conclusion
  ```
  (identically for `compMultilinearMap`). Forward fails because the substituted-map hypothesis is `∀ i, IsHomogeneous (g i) …`, i.e. under a binder; backward fails because the intermediate family `ℬ` appears in no conclusion argument, so no conclusion pattern determines the instantiation. A hand-written `grind_pattern` would have to leave `ℬ` unconstrained, which is not a usable pattern. The lemmas remain available by name and by dot notation, and `isHomogeneous_def` gives consumers the full characterization.

`lake build`, `lake exe axioms` (`audited 45654 TauCeti declaration(s); all within the allowlist`), `lake exe module-system` and `scripts/lint-env.sh` (`PASS — no new violations`) are green at `7c4db7b0`; the new `@[simp]` lemmas add no simpNF violations.

Comment (kbuzzard) [reply TauCeti/LinearAlgebra/Graded/Multilinear.lean:1]: **Re: your reply on `correctness` —** re-reviewed on `7c4db7b`; this clears the finding ✅ — approved on `7c4db7b`.

<sub>`claude/claude-opus-5` · addresses your replies through comment 3786402771.</sub>

Comment (kbuzzard) [reply TauCeti/LinearAlgebra/Graded/Multilinear.lean:1]: **Re: your reply on `api-design` —** re-reviewed on `7c4db7b`; the finding stands — Surface is minimal, bodies are unexposed, and intro/elim/def/mem lemmas are all present. Three defects remain: the `mem_homogeneousSubmodule` bridges are invisible to `grind`, the PR's headline composition theorems carry no automation annotation while every sibling closure lemma does, and three characteristic lemmas are proved by bare `Iff.rfl` against unexposed bodies.

<sub>`claude/claude-opus-5` · addresses your replies through comment 3786404632.</sub>

Comment (kim-em) [inline TauCeti/LinearAlgebra/Graded/Multilinear.lean:1]: ### ✅ api-design — now passing on `e1dea62`.

**Comment by kim-em** [comment]
## AI review — changes requested

Each rubric is judged independently by multiple review agents; the PR merges only once **every** rubric is green — any rubric that is not green (changes requested, blocked, errored, stale, or not yet run) blocks the merge. See the [rubrics](https://github.com/TauCetiProject/TauCetiReview/tree/2c299e1d1950d731786005ef33209486b2fa7f9d/rubrics).

| | rubric | state | judge | summary |
|---|---|---|---|---|
| ✅ | [correctness](https://github.com/TauCetiProject/TauCetiReview/blob/2c299e1d1950d731786005ef33209486b2fa7f9d/rubrics/correctness.md) | approved | `codex/gpt-5.6-sol` | The predicates faithfully encode additive degree shifts, and the composition, simultaneous substitution, reindexing, and empty-arity formulas preserve those degrees. The predicates have substantive consumers and witnesses, while the characterization lemmas provide necessary public access to their unexposed definitions. |
| ✅ | [reuse](https://github.com/TauCetiProject/TauCetiReview/blob/2c299e1d1950d731786005ef33209486b2fa7f9d/rubrics/reuse.md) | approved | `codex/gpt-5.6-sol` | No duplication was located: the new predicates and degree-calculus results are absent from Mathlib and existing TauCeti code, while the proofs reuse Mathlib’s composition and finite-sum APIs. The characterization and elimination lemmas are necessary public accessors for the unexposed predicate definitions, not redundant wrappers. |
| ✅ | [scope](https://github.com/TauCetiProject/TauCetiReview/blob/2c299e1d1950d731786005ef33209486b2fa7f9d/rubrics/scope.md) | approved | `codex/gpt-5.6-sol` | The two files form one coherent degree-calculus unit and directly implement part of DGAInfinity Layer 0's explicit homogeneous multilinear-map and substitution target. Their family-based interface does not require the internal-direct-sum grading work to have landed first. |
| ✅ | [attribution](https://github.com/TauCetiProject/TauCetiReview/blob/2c299e1d1950d731786005ef33209486b2fa7f9d/rubrics/attribution.md) | approved | `codex/gpt-5.6-sol` | Both new modules credit Keller for the degree convention and explicitly identify the Mathlib composition infrastructure they extend; no uncredited vendoring or closely adapted formalization is evident. |
| ✅ | [api-design](https://github.com/TauCetiProject/TauCetiReview/blob/2c299e1d1950d731786005ef33209486b2fa7f9d/rubrics/api-design.md) | approved | `codex/gpt-5.6-sol` | The canonical interface is minimal and supplies characteristic, closure, composition, reindexing, and submodule-membership lemmas with appropriate usable automation annotations. |
| 🟡 | [generality](https://github.com/TauCetiProject/TauCetiReview/blob/2c299e1d1950d731786005ef33209486b2fa7f9d/rubrics/generality.md) | changes requested | `codex/gpt-5.6-sol` | The reindexing theorem exposes an auxiliary scalar ring unrelated to homogeneity, imposing unnecessary assumptions on every caller. |
| ✅ | [placement](https://github.com/TauCetiProject/TauCetiReview/blob/2c299e1d1950d731786005ef33209486b2fa7f9d/rubrics/placement.md) | approved | `codex/gpt-5.6-sol` | The declarations are in canonical topic-specific modules under `LinearAlgebra/Graded`, and each import supports evident definitions or dependencies. |
| ✅ | [naming](https://github.com/TauCetiProject/TauCetiReview/blob/2c299e1d1950d731786005ef33209486b2fa7f9d/rubrics/naming.md) | approved | `codex/gpt-5.6-sol` | The introduced names accurately describe their conclusions, follow adjacent Mathlib terminology, and add no notation. |
| ✅ | [documentation](https://github.com/TauCetiProject/TauCetiReview/blob/2c299e1d1950d731786005ef33209486b2fa7f9d/rubrics/documentation.md) | approved | `codex/gpt-5.6-sol` | Both substantive files have accurate module documentation, and all public definitions and main theorems are documented consistently with their statements. |
| ✅ | [proof-quality](https://github.com/TauCetiProject/TauCetiReview/blob/2c299e1d1950d731786005ef33209486b2fa7f9d/rubrics/proof-quality.md) | approved | `codex/gpt-5.6-sol` | The proofs are concise and robust, with controlled rewrites and explicit simp sets for composition. The sole intentional definitional-equality step is localized and documented. |

♻️ = approved on an earlier commit, re-run before merge.

<sub>Reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/f5c4afcb1b08df3c2f00bad3e8376c64615c0170...e1dea627ed6095be1d72b0e56c7d9506b77258f8) at head `e1dea62`. rubrics @ [`2c299e1`](https://github.com/TauCetiProject/TauCetiReview/tree/2c299e1d1950d731786005ef33209486b2fa7f9d/rubrics). Review spend: $4.67.</sub>

File: TauCeti/LinearAlgebra/Graded/Multilinear.lean
Comment (kim-em) [reply TauCeti/LinearAlgebra/Graded/Multilinear.lean:1]: **Re: your reply on `correctness` —** re-reviewed on `7c4db7b`; this clears the finding ✅ — approved on `7c4db7b`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3786402771.</sub>

Comment (kim-em) [reply TauCeti/LinearAlgebra/Graded/Multilinear.lean:1]: **Re: your reply on `reuse` —** re-reviewed on `7c4db7b`; this clears the finding ✅ — approved on `7c4db7b`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3786103340.</sub>

Comment (kim-em) [reply TauCeti/LinearAlgebra/Graded/Multilinear.lean:1]: **Re: your reply on `api-design` —** re-reviewed on `7c4db7b`; the finding stands — The principal multilinear composition rules are missing the automation annotations used by the parallel closure API.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3786404632.</sub>

Comment (kbuzzard) [reply TauCeti/LinearAlgebra/Graded/Multilinear.lean:1]: Two of the three items are fixed in `c4101ef`; the third is contested.

**Fixed — bullet 1 (`mem_homogeneousSubmodule` invisible to `grind`).** Both bridges are now `@[simp, grind =]`. While verifying this I found the bridge alone was not enough: `IsHomogeneous.add`/`.neg`/`.sub` were `@[grind →]`, whose auto-generated multi-pattern includes the `AddMemClass`/`NegMemClass` *instance* as a pattern element, which is never in the e-graph, so those rules still could not fire. They are now `@[grind ←]` (pattern taken from the conclusion, exactly like the already-working `smul`). With both changes, all four closure rules are reachable through the bridge — verified:

```lean
variable {R ι M N : Type} [CommRing R] [AddMonoid ι] [AddCommMonoid M] [AddCommGroup N]
    [Module R M] [Module R N] {𝒜 : ι → Submodule R M} {ℬ : ι → Submodule R N}
    {q : ι} {f g : M →ₗ[R] N}
example (hf : IsHomogeneous f 𝒜 ℬ q) (hg : IsHomogeneous g 𝒜 ℬ q) :
    f + g ∈ homogeneousSubmodule (S := R) 𝒜 ℬ q := by grind
example (hf : IsHomogeneous f 𝒜 ℬ q) (hg : IsHomogeneous g 𝒜 ℬ q) :
    f - g ∈ homogeneousSubmodule (S := R) 𝒜 ℬ q := by grind
example (hf : IsHomogeneous f 𝒜 ℬ q) : -f ∈ homogeneousSubmodule (S := R) 𝒜 ℬ q := by grind
example (hf : IsHomogeneous f 𝒜 ℬ q) (r : R) :
    r • f ∈ homogeneousSubmodule (S := R) 𝒜 ℬ q := by grind
```
(all four close; the same four close for `MultilinearMap`).

**Partly fixed — bullet 2 (untagged composition theorems).** The literal suggestion `@[grind →]` on all three is rejected by Lean:

```
error: TauCeti/LinearAlgebra/Graded/Multilinear.lean:109:2: `@[grind →] theorem compLinearMap` failed
  to find patterns in the antecedents of the theorem, ...
error: ...:129:2: `@[grind →] theorem compMultilinearMap` failed to find patterns in the antecedents ...
error: ...:157:2: `@[grind →] theorem domDomCongrLinearEquiv'` failed to find patterns in the antecedents ...
```
The stated reasoning ("the pattern comes from `hf`, with the `∀ i` premise discharged from context") does not hold: `hf : IsHomogeneous f ℬ 𝒞 q` leaves `g`, `𝒜` and `r` undetermined, and those occur only under the binder of `hg : ∀ i, …`, so they are not available to any forward pattern. `@[grind ←]` fails too ("failed to find patterns in the theorem's conclusion").

What *does* work is bare `@[grind]`, which builds a multi-pattern spanning both the hypothesis and the conclusion. `IsHomogeneous.compLinearMap` and `IsHomogeneous.domDomCongrLinearEquiv'` are now tagged `@[grind]`, and the degree calculus is driven by `grind` at the substitution step — verified:

```lean
example (hf : IsHomogeneous f ℬ 𝒞 q)
    (hg : ∀ i, LinearMap.IsHomogeneous (g i) (𝒜 i) (ℬ i) (r i)) :
    IsHomogeneous (f.compLinearMap g) 𝒜 𝒞 ((∑ i, r i) + q) := by grind
```

`MultilinearMap.IsHomogeneous.compMultilinearMap` is left untagged, because `grind` rejects every modifier for it:

```
error: TauCeti/LinearAlgebra/Graded/Multilinear.lean:129:2: invalid `grind` theorem,
  failed to find an usable pattern using different modifiers
```
This is not fixable by an attribute or by `grind_pattern`: in that theorem's conclusion the input family appears only as `fun ij ↦ 𝒜 ij.1 ij.2`, i.e. `𝒜` occurs solely under a lambda, and `r` occurs only inside `∑ i, r i` and under the binder of `hg`. There is no ground pattern that can determine `𝒜` and `r`, so no E-matching instantiation of this theorem exists. Forcing it would require `set_option`-style workarounds or a restated, less general lemma, both of which the repo rules and the generality rubric forbid.

**Contested — bullet 3 (`:= Iff.rfl` → `:= (Iff.rfl)`).** The suggested fix is a no-op: parentheses are pure surface syntax in Lean's term grammar, and both spellings elaborate to the identical proof term.

```lean
theorem a : True ↔ True := Iff.rfl
theorem b : True ↔ True := (Iff.rfl)
#print a   -- theorem a : True ↔ True := Iff.rfl
#print b   -- theorem b : True ↔ True := Iff.rfl
-- structural comparison of the two stored values:
--   proof terms identical: true
--   a isRflTheorem: false
--   b isRflTheorem: false
```
`Meta.isRflTheorem` returns the same answer for both, so nothing about how `simp`/`dsimp` classifies the lemma changes. The premise is also wrong in the other direction: being a `rfl`-proved lemma is what *lets* `dsimp` use a rewrite without unfolding anything, so it cannot be the reason `dsimp` would need "an unfolding it cannot perform".

Empirically the bridges work fine as they stand:

```lean
example (h : f ∈ homogeneousSubmodule (S := R) 𝒜 ℬ q) : IsHomogeneous f 𝒜 ℬ q := by
  simp only [mem_homogeneousSubmodule] at h; exact h
```
closes, as do the four `grind` goals above, which route through `mem_homogeneousSubmodule` as a `grind =` rewrite. If there is a residual concern it is about the module system not exposing `homogeneousSubmodule`'s body downstream — but that is deliberate (the whole point of `isHomogeneous_def`/`mem_homogeneousSubmodule` existing), and adding parentheses would not change it either way.

Comment (kbuzzard) [reply TauCeti/LinearAlgebra/Graded/Multilinear.lean:1]: Addendum to the previous reply: in `e1dea62` the two composition lemmas are tagged `@[grind .]` rather than bare `@[grind]`. Bare `@[grind]` elaborates fine but emits a `Try these:` info message asking for an explicit modifier, which would show up in the build log; `.` is the modifier `grind` itself selects, and the resulting E-matching multi-pattern (and the `by grind` check in the previous reply) is unchanged.

Comment (kim-em) [inline TauCeti/LinearAlgebra/Graded/Multilinear.lean:1]: ### 🟡 generality — request_changes  `codex/gpt-5.6-sol`

The reindexing theorem exposes an auxiliary scalar ring unrelated to homogeneity, imposing unnecessary assumptions on every caller.

- `TauCeti/LinearAlgebra/Graded/Multilinear.lean:157` — `IsHomogeneous.domDomCongrLinearEquiv'` requires `S`, `[Semiring S]`, `[Module S N]`, and `[SMulCommClass R S N]` solely to access Mathlib's linear-equivalence wrapper; none belongs to the homogeneous reindexing claim. _Fix:_ Remove `S` and its assumptions from the public theorem, implementing the underlying input reindexing directly or instantiating the wrapper with a canonical additive scalar such as `ℕ`.

Reply in this thread to contest a finding; that re-runs **only** this rubric and posts an answer here. (To fix it, just push a commit — that re-reviews on its own. To contest again after an answer, post a NEW reply rather than editing an old one.)

<sub>`codex/gpt-5.6-sol` · 58s · 170.5k in / 1.7k out tokens · reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/f5c4afcb1b08df3c2f00bad3e8376c64615c0170...e1dea627ed6095be1d72b0e56c7d9506b77258f8) · [rubric](https://github.com/TauCetiProject/TauCetiReview/blob/2c299e1d1950d731786005ef33209486b2fa7f9d/rubrics/generality.md)</sub>

Comment (kim-em) [reply TauCeti/LinearAlgebra/Graded/Multilinear.lean:1]: **Re: your reply on `api-design` —** re-reviewed on `e1dea62`; this clears the finding ✅ — approved on `e1dea62`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3786744090.</sub>

Comment (kbuzzard) [reply TauCeti/LinearAlgebra/Graded/Multilinear.lean:1]: **Re: your reply on `api-design` —** re-reviewed on `a17bc1f`; this clears the finding ✅ — approved on `a17bc1f`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3786744090.</sub>

Comment (CBirkbeck) [reply TauCeti/LinearAlgebra/Graded/Multilinear.lean:1]: **Re: your reply on `correctness` —** re-reviewed on `4ceca10`; this clears the finding ✅ — approved on `4ceca10`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3786402771.</sub>

Comment (CBirkbeck) [reply TauCeti/LinearAlgebra/Graded/Multilinear.lean:1]: **Re: your reply on `reuse` —** re-reviewed on `4ceca10`; this clears the finding ✅ — approved on `4ceca10`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3786103340.</sub>

Comment (CBirkbeck) [reply TauCeti/LinearAlgebra/Graded/Multilinear.lean:1]: **Re: your reply on `api-design` —** re-reviewed on `4ceca10`; this clears the finding ✅ — approved on `4ceca10`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3786744090.</sub>
